US06436980B1
(B) N,N′-Bis-Boc-(2R)-2,5-Diamino-N-[(1R)-1-[(RS)-(2-benzimidazolyl)hydroxymethyl]-3-phenylpropyl]valeramide
N-Cbz-(1R)-1-[(RS)-(2-Benzimidazolyl)hydroxymethyl]-3-phenylpropylamine (581 mg) is deprotected in trifluoroacetic acid, and the residue is coupled to N,N′-bis-Boc-D-ornithine to afford the title compound (110 mg): mass spectrum (ES+) m/e 596.3 (M+1); 1H NMR (400 MHz, CDCl3, 3:2 mixture of diastereomers) δ 1.46 (m, 9H), 1.42 (s, 9H), 1.58 (m, 4H), 2.02 (m, 2H), 2.63 (m, 2H), 2.82 (m, 2H), 3.18 (m, 1H), 4.16 (m, 1H), 4.49 (m, 1H), 5.17 (m, 1H), 5.42 (m, 1H), 7.03-7.23 (m, 8H), and 7.57 (m, 1H).

reactant | N-Cbz-(1R)-1-[(RS)-(2-Benzimidazolyl)hydroxymethyl]-3-phenylpropylamine | 581 mg | C(=O)(OCC1=CC=CC=C1)N[C@H](CCC1=CC=CC=C1)C(O)C=1NC2=C(N1)C=CC=C2 | C25H25N3O3
reactant | N,N′-bis-Boc-D-ornithine | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C15H28N2O6
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N,N′-Bis-Boc-(2R)-2,5-Diamino-N-[(1R)-1-[(RS)-(2-benzimidazolyl)hydroxymethyl]-3-phenylpropyl]valeramide | 110 mg | C(=O)(OC(C)(C)C)N(C([C@@H](CCCNC(=O)OC(C)(C)C)N)=O)[C@H](CCC1=CC=CC=C1)C(O)C=1NC2=C(N1)C=CC=C2 | C32H45N5O6
